US09226922B2
4-(Bromomethyl)-6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine (from the synthesis of Intermediate 11B/Step 2; 64 mg, 0.123 mmol) was dissolved in THF (1.5 mL), charged with sodium methoxide (0.080 mL, 0.370 mmol, 4.6 M), and allowed to stir at room temperature for 30 min. The reaction mixture was diluted with water, extracted with ethyl acetate, and washed with brine. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (5-50% EtOAc/hexanes) to give 6-chloro-3-methoxy-4-(methoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine. MS ESI calc'd. For C28H24ClN3O2 [M+1]+ 470. found 470.

reactant | 4-(Bromomethyl)-6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine | BrCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)Cl | C27H21BrClN3O
reactant | sodium methoxide | 0.370 mmol, 4.6 M, 0.080 mL | C[O-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-chloro-3-methoxy-4-(methoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | ClC1=CC2=C(C(=N1)COC)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C28H24ClN3O2
